US06441004B1
Methyl N-(3,4-dichlorobenzyl)-5-(ethoxycarbonylmethylamino)indole-2-carboxylate
Sodium cyanoborohydride (0.2 g) was added in a single portion to methyl N-(3,4-dichlorobenzyl)-5-aminoindole-2-carboxylate (0.16 g), ethyl glyoxalate (0.2 ml of 50 wt % solution in toluene) and acetic acid (0.1 ml) in methanol (3 ml). The reaction was stirred for 5 mins then partitioned between ethyl acetate and 2M HCl. Combined organic extracts were dried (MgSO4) and concentrated to give an oil which crystallised upon trituration with i-hexane. Filtration yielded the desired end product as an off-white powder (0.136 g, 67%); NMR δ(CD3SOCD3) 1.18 (t, 3H), 3.79 (s, 3H), 3.82 (d, 2H), 4.08 (q, 2H), 5.72 (s, 2H), 6.60-7.50 (m, 7H); M/z (+) 435 (M+), 133.

reactant | Sodium cyanoborohydride | 0.2 g | C(#N)[BH3-].[Na+]
reactant | methyl N-(3,4-dichlorobenzyl)-5-aminoindole-2-carboxylate | 0.16 g | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)N)C(=O)OC)C=CC1Cl | C17H14Cl2N2O2
reactant | ethyl glyoxalate | 0.2 ml | C(C=O)(=O)OCC | C4H6O3
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 3 ml | CO | CH4O
product | Methyl N-(3,4-dichlorobenzyl)-5-(ethoxycarbonylmethylamino)indole-2-carboxylate | 0.136 g, 67% | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)NCC(=O)OCC)C(=O)OC)C=CC1Cl | C21H20Cl2N2O4
